US08003658B2
(2-1) Preparation of (2-methoxy-acetylamino)-acetic acid ethylester
1.5 ml of triethylamine was added to 500 mg of amino-acetic acid ethylester hydrochloride dissolved in 5 ml of chloroform, and the solution was cooled to −78° C. 0.34 ml of methoxyacetylchloride diluted with 3 ml of chloroform was slowly added thereto, and the resulting solution was heated slowly to room temperature and reacted for 6 hours. The reacted solution was washed with distilled water, adjusted to pH 8 to 9 by adding saturated sodium bicarbonate solution, extracted with organic solvent, dried over magnesium sulfate, and filtered and distilled under a reduced pressure to obtain the title compound (595 mg, 75%).

reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | amino-acetic acid ethylester hydrochloride | 500 mg | Cl.C(C)OC(CN)=O
reactant | methoxyacetylchloride | 0.34 ml | COCC(=O)Cl | C3H5ClO2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | (2-methoxy-acetylamino)-acetic acid ethylester | 595 mg, 75% | C(C)OC(CNC(COC)=O)=O | C7H13NO4
